US04857530
A mixture of 26.6 g (189 mmol) of 4-fluoronitrobenzene, 20.8 g (377 mmol) of propargylamine, 11 g (189 mmol) of potassium fluoride, and 26 g (188 mmol) of potassium carbonate in 600 ml of dimethylsulfoxide is stirred at room temperature under a nitrogen atmosphere for twenty hours. The reaction mixture is poured into 1.5 l of water and stirred at room temperature for two hours. The yellow solid is filtered, rinsed with water, and then isopropyl alcohol. The product is dried in vacuo at 50° C. for two days to give 16.27 g (49%) 4-nitro-N-2-propynylbenzenamine; mp 150°-153° C.

reactant | 4-fluoronitrobenzene | 189 mmol, 26.6 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | propargylamine | 377 mmol, 20.8 g | C(C#C)N | C3H5N
reactant | potassium fluoride | 189 mmol, 11 g | [F-].[K+]
reactant | potassium carbonate | 188 mmol, 26 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 600 ml | CS(=O)C | C2H6OS
solvent | water | 1.5 l | O | H2O
product | 4-nitro-N-2-propynylbenzenamine | 16.27 g, 49% | [N+](=O)([O-])C1=CC=C(C=C1)NCC#C | C9H8N2O2
